Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cephalosporins / vancomycin
 
Attending: ___.
 
Chief Complaint:
jaundice
 
Major Surgical or Invasive Procedure:
ERCP with sphincterotomy
 
History of Present Illness:
___ F with PMHx of bicuspid aortic valve, Asthma and
symptomatic cholelithasis who was sent into the ED after 
noticing
jaundice and abnormal LFTs.  Pt has had ___ attacks of severe
epigastric pain for which she was recently seen in an OSH ED.  
Pt
was found to have gallstones as the most likely etiology without
cholecystitis and follow up MRCP did not show any CBD stones. 
She was seen by Dr. ___ at ___ who recommended GB removal 
and
she is scheduled next week.  However, pt noticed significant
jaundice over the previous 24hrs and called Dr ___ ordered
LFTs.  Pt was sent into the ED due to significant biliary
obstructive pattern.  On arrival to the ED, pt was afebrile and
denying abd pain but found to have worsening LFTs.  RUQ u/s
showed gallstones without cholecystitis and some additional
incidental findings.  ERCP team was consulted and pt was taken
for ERCP with sphincterotomy this afternoon.

At the time of my exam, pt was walking around the room and
denying any abd pain, nausea, fevers, chills, SOB, cough, ___
edema, or CP.   She continues to notice jaundice without itching
and denies any fevers or changes in diet recently.   She is
hungry and would like to advance diet when possible. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Bicuspid Aortic Valve
Gallstones 
Asthma
Anxiety

 
Social History:
___
Family History:
no family history of gallstones
 
Physical Exam:
97.9 129/86 71 16 98 RA 
GEN: comfortable appearing Caucasian female in NAD
HEENT: MMM, jaundice improving
CV: RRR
RESP: CTAB with occasional wheeze
ABD: soft, NT, ND, NABS, no rebound
GU: no foley
EXTR: warm, no edema
NEURO: alert, appropriate, ambulating

 
Pertinent Results:
___ 07:25AM BLOOD WBC-4.8 RBC-4.24 Hgb-12.1 Hct-39.4 MCV-93 
MCH-28.5 MCHC-30.7* RDW-14.7 RDWSD-50.9* Plt ___
___ 07:25AM BLOOD Glucose-88 UreaN-11 Creat-0.7 Na-139 
K-4.3 Cl-103 HCO3-21* AnGap-15
___ 08:12AM BLOOD ALT-377* AST-322* AlkPhos-297* 
TotBili-7.1* DirBili-4.9* IndBili-2.2
___ 07:25AM BLOOD ALT-297* AST-206* AlkPhos-227* 
TotBili-3.0*

RUQ u/s report:
IMPRESSION:  
1.  Distended gallbladder with stones and intra- and 
extrahepatic biliary 
dilatation suggests obstructive etiology. No stones are 
identified however 
within the imaged portion of the distal common bile duct, but 
MRCP is 
recommended to assess for a distal obstructing calculus.  While 
no specific signs of acute cholecystitis are seen, given 
clinical history, this cannot be excluded. 
  
2.  Left hydronephrosis.  No evidence of obstructing stones.  
Consider CTU to further evaluate for obstructing calculus. 
  
3.  Echogenic liver consistent with steatosis. Other forms of 
liver disease and more advanced liver disease including 
steatohepatitis or significant hepatic fibrosis/cirrhosis cannot 
be excluded on this study. 

ERCP: The scout film was normal. The major papilla was normal.
•The CBD was successfully cannulated using a Clevercut 
sphincterotome preloaded with 0.025in guidewire.
•Contrast injection revealed a dilted CBD at approximately 12mm 
in diameter with multiple small filling defects in the CBD 
consistent with sludge.
•A biliary sphincterotomy was successfully performed at the 12 
o'clock position. There was no post-sphincterotomy bleeding.
•The bile duct was swept multiple times using a biliary balloon 
catheter. Moderate amount of sludge material was successfully 
removed.
•Occlusion cholangiogram revealed no more filling defects.
•There was excellent contrast and bile drainage at the end of 
the procedure. 

 
Brief Hospital Course:
___ y/o F with bicuspid aortic valve, asthma and symptomatic
cholelithiasis who p/w acute biliary obstruction without acute 
cholecystitis.

#Biliary obstruction secondary to cholelithiasis s/p ERCP with 
sphincterotomy and removal of sludge.  Pt was without any pain 
pre or post procedure, denies any F/C/N/V or epigastric pain 
despite significant obstruction seen on RUQ u/s and abnormal 
LFTs.  Pt was monitored post ERCP with IVF and did not require 
any pain meds.   She was advanced a diet the following day and 
did not have any epigastric pain, fevers or nausea.  Pt 
discussed the plan with her primary surgeon Dr. ___ who 
feels comfortable with her returning home and coming back for 
scheduled cholecystectomy on ___.  Liver function tests 
were still abnormal post ERCP but were rapidly downtrending and 
there was no leukocytosis.  Pt agreed to return if any 
epigastric pain, nausea, vomiting, fevers or recurrent symptoms 
of gallbladder attack.  Pt was treated with Cipro 500mg BID for 
5 days and will see her PCP next week for follow up LFTs to 
ensure continued downtrend.  CBC was noted to have a mild drop 
in plts with IVF (still >115,000) and would recommend follow up 
CBC with LFTs next week.

#Left hydronephrosis: Incidentally noted on RUQ u/s. Pt reports 
having an extensive prior work up with urology for this finding 
within the last year and it was felt to be incidental, not 
affecting renal function or drainage.  

#Hepatic steatosis: Incidentally noted on RUQ u/s.  Nutrition 
was consulted at pt request to provide information about low fat 
diet and pt was provided counseling on weight loss.  This will 
need outpatient follow up with PCP.

Anxiety: continued Duloxetine

Asthma: continued flovent/albuterol
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. DULoxetine 40 mg PO DAILY 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze, SOB 
3. Fluticasone Propionate 110mcg 2 PUFF IH BID 
4. Naproxen 500 mg PO Q8H:PRN Pain - Moderate 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q8H:PRN Pain 
keep your total daily intake of Tylenol less than 2000mg  
2.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 5 Days 
RX *ciprofloxacin HCl 500 mg one tablet(s) by mouth twice daily 
Disp #*8 Tablet Refills:*0 
3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze, SOB  
4.  DULoxetine 40 mg PO DAILY  
5.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
6. HELD- Naproxen 500 mg PO Q8H:PRN Pain - Moderate  This 
medication was held. Do not restart Naproxen until after surgery

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Biliary obstruction s/p ERCP with spincterotomy
Symptomatic cholelithiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with jaundice and obstruction of your biliary 
tree secondary to gallstones.  You were treated with a procedure 
called an ERCP with sphincterotomy to relieve the obstruction.  
You still need to have definitive management with surgical 
removal of the gallbladder next week and remain at risk for 
gallbladder infection.  We recommend that you continue taking 
Cipro 500mg twice daily for 5 days and return for evaluation if 
you develop any epigastric pain, nausea, vomiting or fevers.  

Good luck with your surgery next week and make sure to keep the 
follow up appointments as scheduled below for follow up labs.
 
Followup Instructions:
___